US08709615B2
2-Phenyl-4-(prop-1-en-2-yl)pyridine (13.5 g, 69.1 mmol) was added to a hydrogenator bottle containing EtOH (150 mL). The reaction mixture was degassed by bubbling with nitrogen for 10 min. Pd/C (0.736 g, 6.9 mmol) and Pt/C (0.674 g, 3.5 mmol) was added to the reaction mixture. The reaction mixture was placed on the Parr hydrogenator for 2 h. The reaction mixture was filtered on a tightly packed Celite® bed and washed with dichloromethane. The solvent was removed on a rotary evaporator and GC/MS confirmed complete conversion. The crude product was adsorbed on Celite® for column chromatography. The crude product was chromatographed on silica gel with 10% EtOAc in hexane to yield 10 g (75%) of 2-phenyl-4-isopropylpyridine (HPLC purity: 99.8%). The product was confirmed by GC/MS.

reactant | 2-Phenyl-4-(prop-1-en-2-yl)pyridine | 69.1 mmol, 13.5 g | C1(=CC=CC=C1)C1=NC=CC(=C1)C(=C)C | C14H13N
catalyst | Pd/C | 6.9 mmol, 0.736 g | [Pd] | Pd
catalyst | Pt/C | 3.5 mmol, 0.674 g | [Pt] | Pt
solvent | EtOH | 150 mL | CCO | C2H6O
product | 2-phenyl-4-isopropylpyridine | 10 g, 75% | C1(=CC=CC=C1)C1=NC=CC(=C1)C(C)C | C14H15N
